US08912176B2
Preparation of 2-({3-[(4-cyclobutyl-1,4-diazepan-1-yl)carbonyl]azetidin-1-yl}carbonyl)-1,2,3,4-tetrahydroisoquinoline. Potency Range A
4-Nitrophenyl 3-[(4-cyclobutyl-1,4-diazepan-1-yl)carbonyl]azetidine-1-carboxylate (50 mg, 0.12 mmol), 1,2,3,4-tetrahydroisoquinoline (25 μl, 0.19 mmol) and DIPEA (42 μl, 0.24 mmol) were stirred in 1,2-dichloroethane (2 ml) and isopropanol (1 ml) at 120° C. in a sealed tube for 16 hrs. The mixture was then cooled to RT, diluted with dichloromethane (30 ml) and washed with 1M aq. K2CO3 (2×15 ml), dried (MgSO4), filtered and concentrated at reduced pressure. The residue was purified by silica FCC (eluting with 99:1:1 to 92:8:1 gradient of DCM/MeOH/2M NH3 in MeOH) to give the title compound (9 mg, 19% yield) as colourless oil.

reactant | 4-Nitrophenyl 3-[(4-cyclobutyl-1,4-diazepan-1-yl)carbonyl]azetidine-1-carboxylate | 0.12 mmol, 50 mg | C1(CCC1)N1CCN(CCC1)C(=O)C1CN(C1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C20H26N4O5
reactant | 1,2,3,4-tetrahydroisoquinoline | 0.19 mmol, 25 μl | C1NCCC2=CC=CC=C12 | C9H11N
reactant | DIPEA | 0.24 mmol, 42 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | isopropanol | 1 ml | C(C)(C)O | C3H8O
solvent | 1,2-dichloroethane | 2 ml | ClCCCl | C2H4Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-({3-[(4-cyclobutyl-1,4-diazepan-1-yl)carbonyl]azetidin-1-yl}carbonyl)-1,2,3,4-tetrahydroisoquinoline | 9 mg, 19% yield | C1(CCC1)N1CCN(CCC1)C(=O)C1CN(C1)C(=O)N1CC2=CC=CC=C2CC1 | C23H32N4O2
